US09023840B2
Step 2: 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoic acid
Lithium hydroxide monohydrate (0.21 g, 5.0 mmol) was added to a mixture of methyl 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoate (1.06 g) in methanol (15.0 mL) and water (3.0 mL). The reaction mixture was stirred at 40° C. overnight. The mixture was adjusted to pH 3 with aqueous HCl (1.00 N), and concentrated under reduced pressure to remove methanol. The solid formed was filtered and washed with water, and dried under reduced pressure to afford the crude product (0.95 g) which was directly used in next step reaction without further purification. LCMS (M+H)+: m/z=548.3.

reactant | Lithium hydroxide monohydrate | 5.0 mmol, 0.21 g | O.[OH-].[Li+]
reactant | methyl 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoate | 1.06 g | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)OC)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C28H32FN7O3Si
reactant | HCl | 1.00 N | Cl | ClH
solvent | methanol | 15.0 mL | CO | CH4O
solvent | water | 3.0 mL | O | H2O
product | 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoic acid | 0.95 g | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)O)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C27H30FN7O3Si
